US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[6-Chloro-2-(2-methoxy-3-morpholin-4-ylmethyl-phenyl)-3H-imidazo[4,5-b]pyridine-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound LIII)
In a similar fashion as for the synthesis of III, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide and 2-methoxy-3-morpholin-4-ylmethylbenzaldehyde were reacted to produce the title compound (70%). Mp. 133-7° C. 1H NMR (d-chloroform): 12.03 (br s, 1H), 8.18 (d, J=7 Hz, 1H), 8.13 (s, 1H), 7.56 (d, J=7 Hz, 1H), 7.29 (t, J=8 Hz, 1H), 6.37 (m, 2H), 6.29 (s, 1H), 5.82 (d, J=7 Hz, 1H), 5.41 (s, 1H), 5.25 (t, J=7 Hz, 1H), 3.83 (s, 3H), 3.75 (m, 4H), 3.67 (s, 2H), 3.17 (s, 1H), 2.94 (s, 1H), 2.83 (d, J=7 Hz, 1H), 2.58 (m, 4H), 2.36 (d, J=7 Hz, 1H). MS: 509.2 (M+H). HPLC retention time: 1.71 minutes (G Method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 2-methoxy-3-morpholin-4-ylmethylbenzaldehyde | COC1=C(C=O)C=CC=C1CN1CCOCC1 | C13H17NO3
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(2-methoxy-3-morpholin-4-ylmethyl-phenyl)-3H-imidazo[4,5-b]pyridine-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 70% | ClC=1C(=C2C(=NC1)NC(=N2)C2=C(C(=CC=C2)CN2CCOCC2)OC)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C26H29ClN6O3
